US08497360B2
Chemical cleavage of 5-(benzyloxy)methyl-2′-deoxyuridine
To a solution of 5-benzyloxy-2′-deoxyuridine (10 mg) in ethanol (1 mL) was added Pd/C (10%, 10 mg), and the mixture was stirred for five minutes. Hydrogen was introduced to the system via a balloon and the reaction mixture was stirred at room temperature. Aliquots (5 μL) were taken out from the reaction mixture at various time point intervals and were analyzed by thin layer chromatography and HPLC. Complete cleavage to thymidine was observed after ten minutes at room temperature (Scheme 42 and FIG. 4). The intermediate of the cleavage was identified to be 5-hydroxymethyl-dU generated from initial removal of benzyl group, and HOMedU was further reduced to thymidine.

reactant | 5-benzyloxy-2′-deoxyuridine | 10 mg | C(C1=CC=CC=C1)OC=1C(NC(N([C@H]2C[C@H](O)[C@@H](CO)O2)C1)=O)=O | C16H18N2O6
reactant | Hydrogen | [H][H] | H2
reactant | thymidine | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C(C)=C1 | C10H14N2O5
solvent | ethanol | 1 mL | C(C)O | C2H6O
catalyst | Pd/C | 10 mg | [Pd] | Pd
product | 5-(benzyloxy)methyl-2′-deoxyuridine | C(C1=CC=CC=C1)OCC=1C(NC(N([C@H]2C[C@H](O)[C@@H](CO)O2)C1)=O)=O | C17H20N2O6
